US06320050B1
A solution of freshly prepared lithium diisopropylamide (141.3 mL of a 0.32 M stock solution, 45.0 mmol) cooled to −78° C. was treated with (3-chloro-phenyl)-acetic acid (3.41 g, 20.0 mmol) in tetrahydrofuran/1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (49.7 mL, 3:1). The resulting reaction solution was stirred at −78° C. for 1 h. Iodomethylcyclopentane (4.64 g, 22.08 mmol) was then added in 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (4.64 mL). The reaction mixture was stirred at −78° C. for 4 h. The reaction was then warmed to 25° C. and was stirred at 25° C. for 48 h. The solution was then quenched by the slow addition of the reaction mixture to a 2 N aqueous hydrochloric acid solution (50 mL). The product was extracted into ethyl acetate (1×150 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 85/15 hexanes/ethyl acetate) afforded 2-(3-chloro-phenyl)-3-cyclopentyl-propionic acid (3.68 g, 72.9%) as a yellow solid: mp 70-72° C.; EI-HRMS m/e calcd for C14H17ClO2(M+) 252.0917, found 252.0915.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | (3-chloro-phenyl)-acetic acid | 20.0 mmol, 3.41 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | Iodomethylcyclopentane | 22.08 mmol, 4.64 g | ICC1CCCC1 | C6H11I
solvent | tetrahydrofuran 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 49.7 mL | O1CCCC1.CN1C(N(CCC1)C)=O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 4.64 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-(3-chloro-phenyl)-3-cyclopentyl-propionic acid | 3.68 g, 72.9% | ClC=1C=C(C=CC1)C(C(=O)O)CC1CCCC1 | C14H17ClO2
